US06569878B1
[4-Amino-2-(4-amino-phenylamino)-thiazol-5-yl]-phenyl-methanone
The title compound was prepared in a manner similar to that described for Example D(1). Catalytic reduction of the title compound from Example A(8) (i.e., [4-amino-2-(4-nitro-phenylamino)-thiazol-5-yl]-phenyl-methanone, 450 mg, 1.32 mmol) gave, after recrystallization from ethanol, 120 mg (29% yield) of orange powder, mp 167-169° C.

reactant | [4-amino-2-(4-nitro-phenylamino)-thiazol-5-yl]-phenyl-methanone | NC=1N=C(SC1C(=O)C1=CC=CC=C1)NC1=CC=C(C=C1)[N+](=O)[O-] | C16H12N4O3S
solvent | ethanol | C(C)O | C2H6O
product | [4-Amino-2-(4-amino-phenylamino)-thiazol-5-yl]-phenyl-methanone | NC=1N=C(SC1C(=O)C1=CC=CC=C1)NC1=CC=C(C=C1)N | C16H14N4OS
